US07700591B2
3-[1-(Acetyloxy)ethyl]-3-({[2-hydroxy-5-(trifluoromethyl)benzyl]amino}carbonyl)cyclopentyl acetate was combined with paraformaldehyde (ca. 6 g) and TsOH H2O (ca. 100 mg) in 130 mL of toluene. The flask was equipped with a Dean Stark trap and condenser and the reaction mixture was stirred at reflux for 1.5 h. The reaction mixture was filtered to remove remaining paraformaldehyde and the filtrate was concentrated. Purification of the resulting residue was accomplished by MPLC (silica, 65% ethyl acetate/hexanes) to afford 3-[1-(acetyloxy)ethyl]-3-{[6-(trifluoromethyl)-2H-1,3-benzoxazin-3(4H)-yl]carbonyl}cyclopentyl acetate as a mixture of 8 diasteomers.

reactant | 3-[1-(Acetyloxy)ethyl]-3-({[2-hydroxy-5-(trifluoromethyl)benzyl]amino}carbonyl)cyclopentyl acetate | C(C)(=O)OC1CC(CC1)(C(=O)NCC1=C(C=CC(=C1)C(F)(F)F)O)C(C)OC(C)=O | C20H24F3NO6
reactant | paraformaldehyde | ca. 6 g | C=O | CH2O
reactant | TsOH H2O | ca. 100 mg | S(=O)(=O)(C1=CC=C(C)C=C1)O.O
solvent | toluene | 130 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[1-(acetyloxy)ethyl]-3-{[6-(trifluoromethyl)-2H-1,3-benzoxazin-3(4H)-yl]carbonyl}cyclopentyl acetate | C(C)(=O)OC1CC(CC1)(C(=O)N1COC2=C(C1)C=C(C=C2)C(F)(F)F)C(C)OC(C)=O | C21H24F3NO6
